US05792441
Table 8 shows the average overall throughput rates and concentrations of products obtained in this experiment. Slightly diluted purified sulfuric acid from the GAP system of Example 1 (173 g/L H2SO4 and 22 g/L Na2SO4) was fed to the DCU (sodium form) at a net feed average rate of 2.7 L/h thereby converting the DCU to the hydrogen form and producing a sodium sulfate-rich regeneration product (101 g/L Na2 SO4 and 83 g/L H2SO4 with 8g/L residual NaClO3) at 3.0 L/h. In a subsequent step, a concentrated sodium chlorate solution (628 g/L NaClO3) was fed to the DCU (hydrogen form) at 1.5 L/h thereby producing a sodium chlorate/chloric acid mixture (241 g/L NaClO3 and 165 g/L HClO3 with 10.7 g/L Na2SO4) at a rate of 2.4 L/h. The amount of sulfuric acid fed to the DCU was 2.13 times the stoichiometric amount of acid required to remove the sodium.

reactant | sodium chlorate | Cl(=O)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
product | sodium chlorate chloric acid | Cl(=O)(=O)[O-].[Na+].Cl(=O)(=O)O | InChI=1S/2ClHO3.Na/c2*2-1(3)4;/h2*(H,2,3,4);/q;;+1/p-1
